// Generated for: spectre
// Generated on: Jun 18 11:05:51 2026
// Design library name: SAR9B_400MV
// Design cell name: TB_SUBMOD_COMPARATOR_PERF
// Design view name: schematic
simulator lang=spectre
global 0
parameters cload=2f vdiff=2m vcm=450m vdd=900m
include "/home/IC/Desktop/Project/project_tsmcN28_NEW/project_tsmcN28_NEW/iPDK_CRN28HPC+_v1.0_2p2a_20160226_all/CRN28HPCp/models/spectre/toplevel.scs" section=top_tt

// Library name: SAR9B_400MV
// Cell name: COMPARATOR
// View name: schematic
subckt COMPARATOR CLKC VDD VN VON VOP VP VSS
    M15 (VOP VAN1 VDD VDD) pch_mac l=30n w=2u multi=1 nf=2 sd=100n \
        ad=1e-13 as=1.5e-13 pd=2.2u ps=4.3u nrd=0.091833 nrs=0.091833 \
        sa=112.742n sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n \
        sa4=110.059n sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=104.359n sapb=125.813n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M13 (VON VAP1 VDD VDD) pch_mac l=30n w=2u multi=1 nf=2 sd=100n \
        ad=1e-13 as=1.5e-13 pd=2.2u ps=4.3u nrd=0.091833 nrs=0.091833 \
        sa=112.742n sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n \
        sa4=110.059n sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=104.359n sapb=125.813n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M12 (VAP1 VAN VDD VDD) pch_mac l=30n w=2u multi=1 nf=2 sd=100n \
        ad=1e-13 as=1.5e-13 pd=2.2u ps=4.3u nrd=0.091833 nrs=0.091833 \
        sa=112.742n sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n \
        sa4=110.059n sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=104.359n sapb=125.813n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M9 (VAP1 VAN1 VDD VDD) pch_mac l=30n w=2u multi=1 nf=2 sd=100n \
        ad=1e-13 as=1.5e-13 pd=2.2u ps=4.3u nrd=0.091833 nrs=0.091833 \
        sa=112.742n sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n \
        sa4=110.059n sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=104.359n sapb=125.813n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M8 (VAN1 VAP VDD VDD) pch_mac l=30n w=2u multi=1 nf=2 sd=100n ad=1e-13 \
        as=1.5e-13 pd=2.2u ps=4.3u nrd=0.091833 nrs=0.091833 sa=112.742n \
        sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n sa4=110.059n \
        sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=104.359n sapb=125.813n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M5 (VAN1 VAP1 VDD VDD) pch_mac l=30n w=2u multi=1 nf=2 sd=100n \
        ad=1e-13 as=1.5e-13 pd=2.2u ps=4.3u nrd=0.091833 nrs=0.091833 \
        sa=112.742n sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n \
        sa4=110.059n sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=104.359n sapb=125.813n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M18 (VAP VN net2 VDD) pch_mac l=30n w=2u multi=1 nf=2 sd=100n ad=1e-13 \
        as=1.5e-13 pd=2.2u ps=4.3u nrd=0.091833 nrs=0.091833 sa=112.742n \
        sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n sa4=110.059n \
        sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=104.359n sapb=125.813n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M0 (net2 CLKC VDD VDD) pch_mac l=30n w=2u multi=1 nf=2 sd=100n \
        ad=1e-13 as=1.5e-13 pd=2.2u ps=4.3u nrd=0.091833 nrs=0.091833 \
        sa=112.742n sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n \
        sa4=110.059n sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n \
        spa1=100n spa2=100n spa3=100n sap=104.359n sapb=125.813n \
        spba=115.715n spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M2 (VAN VP net2 VDD) pch_mac l=30n w=2u multi=1 nf=2 sd=100n ad=1e-13 \
        as=1.5e-13 pd=2.2u ps=4.3u nrd=0.091833 nrs=0.091833 sa=112.742n \
        sb=112.742n sa1=93.6047n sa2=112.078n sa3=163.715n sa4=110.059n \
        sb1=93.6047n sb2=112.078n sb3=163.715n spa=100n spa1=100n \
        spa2=100n spa3=100n sap=104.359n sapb=125.813n spba=115.715n \
        spba1=117.043n dfm_flag=0 spmt=1.11111e+15 spomt=0 \
        spomt1=1.11111e+60 spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M16 (VOP VAN1 VSS VSS) nch_mac l=30n w=1u multi=1 nf=1 sd=100n \
        ad=7.5e-14 as=7.5e-14 pd=2.15u ps=2.15u nrd=0.289519 nrs=0.289519 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M14 (VON VAP1 VSS VSS) nch_mac l=30n w=1u multi=1 nf=1 sd=100n \
        ad=7.5e-14 as=7.5e-14 pd=2.15u ps=2.15u nrd=0.289519 nrs=0.289519 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M11 (VAP1 VAN net8 VSS) nch_mac l=30n w=1u multi=1 nf=1 sd=100n \
        ad=7.5e-14 as=7.5e-14 pd=2.15u ps=2.15u nrd=0.289519 nrs=0.289519 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M10 (net8 VAN1 VSS VSS) nch_mac l=30n w=1u multi=1 nf=1 sd=100n \
        ad=7.5e-14 as=7.5e-14 pd=2.15u ps=2.15u nrd=0.289519 nrs=0.289519 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M7 (VAN1 VAP net6 VSS) nch_mac l=30n w=1u multi=1 nf=1 sd=100n \
        ad=7.5e-14 as=7.5e-14 pd=2.15u ps=2.15u nrd=0.289519 nrs=0.289519 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M6 (net6 VAP1 VSS VSS) nch_mac l=30n w=1u multi=1 nf=1 sd=100n \
        ad=7.5e-14 as=7.5e-14 pd=2.15u ps=2.15u nrd=0.289519 nrs=0.289519 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M1 (VAP CLKC VSS VSS) nch_mac l=30n w=1u multi=1 nf=1 sd=100n \
        ad=7.5e-14 as=7.5e-14 pd=2.15u ps=2.15u nrd=0.289519 nrs=0.289519 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
    M3 (VAN CLKC VSS VSS) nch_mac l=30n w=1u multi=1 nf=1 sd=100n \
        ad=7.5e-14 as=7.5e-14 pd=2.15u ps=2.15u nrd=0.289519 nrs=0.289519 \
        sa=75.0n sb=75.0n sa1=75.0n sa2=75.0n sa3=75.0n sa4=75.0n \
        sb1=75.0n sb2=75.0n sb3=75.0n spa=100n spa1=100n spa2=100n \
        spa3=100n sap=91.9776n sapb=114.444n spba=115.715n spba1=117.043n \
        dfm_flag=0 spmt=1.11111e+15 spomt=0 spomt1=1.11111e+60 \
        spmb=1.11111e+15 spomb=0 spomb1=1.11111e+60
ends COMPARATOR
// End of subcircuit definition.

// Library name: SAR9B_400MV
// Cell name: TB_SUBMOD_COMPARATOR_PERF
// View name: schematic
VVN (VN VSS) vsource dc=vcm-vdiff/2 type=dc
VVP (VP VSS) vsource dc=vcm+vdiff/2 type=dc
VSS_SRC (VSS 0) vsource dc=0 type=dc
VDD_SRC (VDD VSS) vsource dc=vdd type=dc
XCOMP (CLKC VDD VN VON VOP VP VSS) COMPARATOR
VCLK (CLKC VSS) vsource type=pulse val0=0 val1=vdd period=5n delay=1n \
        rise=5p fall=5p width=2n
C_VON (VON VSS) capacitor c=cload
C_VOP (VOP VSS) capacitor c=cload
simulatorOptions options psfversion="1.1.0" reltol=1e-3 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 \
    maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf
tran tran stop=8n errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save CLKC VP VN VOP VON
saveOptions options save=allpub
